US04889855
a. 1,2-Diethoxalylamino-8-nitronaphthalene
A partial suspension of 1,2-diethoxalylaminonaphthalene (1,79 g, 5 mmol) in 7 ml of acetic acid and 7 ml of acetic anhydride was treated dropwise with a solution of nitric acid (1.8 ml, 43 mmol, d 1.52) in 7 ml of acetic acid, with stirring at 0° C. The resulting solution was stirred at 0° C. for 11/2 h and then poured on 150 ml of ice/water. The yellow precipitate was isolated, dried and recrystallized from ethanol with decolourising carbon giving 0.67 g (33%) of the required compound.

reactant | 1,2-diethoxalylaminonaphthalene | 5 mmol, 1,79 g | C(=O)(C(=O)OCC)NC1=C(C=CC2=CC=CC=C12)NC(=O)C(=O)OCC | C18H18N2O6
reactant | nitric acid | 43 mmol, 1.8 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 1,2-Diethoxalylamino-8-nitronaphthalene | C(=O)(C(=O)OCC)NC1=C(C=CC2=CC=CC(=C12)[N+](=O)[O-])NC(=O)C(=O)OCC | C18H17N3O8
